US09382424B2
A mixture of benzotriazole (11.91 g, 100 mmol), 1-iodo-2-methylpropane (13.8 mL, 120 mmol), potassium carbonate (41.46 g, 300 mmol), and dimethylformamide (200 mL) was stirred and heated under argon at 40° C. for 2 days. The reaction mixture was poured into ice/water (1 L) and extracted with toluene/hexanes (2:1, 2×500 mL). The extract was washed with 1 N HCl (2×200 mL) followed by brine (100 mL), dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was triturated with hexane (200 mL) and set aside at room temperature for 2 hours. The precipitate was separated and discarded, and the solution was filtered through a layer of silica gel (200 g). The silica gel was washed with hexane/dichloromethane/ethyl acetate (37:50:3, 2 L). The filtrate and washings were combined, and the solvent was removed under reduced pressure to give 2-isobutyl-2H-benzo[d][1,2,3]triazole (8.81 g, 50% yield) as an oily product. 1H NMR (400 MHz, CDCl3): δ 7.86 (m, 2H, benzotriazole), 7.37 (m, 2H, benzotriazole), 4.53 (d, J=7.3 Hz, 2H, i-Bu), 2.52 (m, 1H, i-Bu), 0.97 (d, J=7.0 Hz, 6H, i-Bu).

reactant | benzotriazole | 100 mmol, 11.91 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 1-iodo-2-methylpropane | 120 mmol, 13.8 mL | ICC(C)C | C4H9I
reactant | potassium carbonate | 300 mmol, 41.46 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 2-isobutyl-2H-benzo[d][1,2,3]triazole | 8.81 g, 50% yield | C(C(C)C)N1N=C2C(=N1)C=CC=C2 | C10H13N3
